US08729102B2
C) tert-butyl [(1S)-2-({5-[(2,5-dihydroxyphenyl)carbamoyl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate
To a solution of 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylic acid (1.5 g), 2-aminobenzene-1,4-diol hydrochloride (0.847 g) and HATU (1.99 g) in DMF (20 mL) was added N,N-diisopropylethylamine (1.80 mL), and the mixture was stirred at room temperature for 5 hr. The solvent was evaporated under reduced pressure, 0.1M hydrochloric acid was added thereto, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (1.11 g).

reactant | 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylic acid | 1.5 g | C(C)(C)(C)OC(=O)N[C@H](COC1=NOC(=C1)C(=O)O)C | C12H18N2O6
reactant | 2-aminobenzene-1,4-diol hydrochloride | 0.847 g | Cl.NC1=C(C=CC(=C1)O)O
reactant | HATU | 1.99 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.80 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl [(1S)-2-({5-[(2,5-dihydroxyphenyl)carbamoyl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate | 1.11 g | OC1=C(C=C(C=C1)O)NC(=O)C1=CC(=NO1)OC[C@H](C)NC(OC(C)(C)C)=O | C18H23N3O7
